US05055481
Two grams of 5-phenyltetrazole (13.68 mM) were slowly added to 5 ml of a methanol solution containing 770 mg (13.68 mM) of potassium hydroxide at room temperature. Two milli liters of a methanol solution containing 1.48 g (13.68 mM) of methyl chloroacetate were dropwise added to the resultant solution at room temperature. After the completion of the addition, the reaction solution was refluxed for 20 hours and cooled. The reaction solution was diluted with ethyl acetate and washed with water. The organic phase was dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel chromatography (elute is chloroform), to give 0.54 g of methyl 5-phenyl-1-tetrazoleacetate (yield: 18.1%).

reactant | 5-phenyltetrazole | 13.68 mM, Two grams | C1(=CC=CC=C1)C1=NN=NN1 | C7H6N4
reactant | methanol | 5 ml | CO | CH4O
reactant | potassium hydroxide | 13.68 mM, 770 mg | [OH-].[K+]
reactant | methanol | Two milli liters | CO | CH4O
reactant | methyl chloroacetate | 13.68 mM, 1.48 g | ClCC(=O)OC | C3H5ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-phenyl-1-tetrazoleacetate | 0.54 g, yield: 18.1% | C1(=CC=CC=C1)C1=NN=NN1CC(=O)OC | C10H10N4O2
